US07732463B2
1-Bromo-2-(4-chloro-phenylsulfanyl)-benzene (intermediate for 2a).
Prepared from 4-chloro-benzenethiol and 1-bromo-2-iodo-benzene.

reactant | 4-chloro-benzenethiol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 1-bromo-2-iodo-benzene | BrC1=C(C=CC=C1)I | C6H4BrI
product | 1-Bromo-2-(4-chloro-phenylsulfanyl)-benzene | BrC1=C(C=CC=C1)SC1=CC=C(C=C1)Cl | C12H8BrClS
